US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-5,6,7-trimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-phenyl-ethyl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-phenyl-ethylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-5,6,7-trimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=C(C(=C(C=C23)OC)OC)OC)C=CC1OC | C21H27NO5
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-phenyl-ethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 2-[1-(3,4-Dimethoxy-benzyl)-5,6,7-trimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-phenyl-ethyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C(=C(C=C23)OC)OC)OC)CC(=O)NCCC2=CC=CC=C2)C=CC1OC | C31H38N2O6
